US07011838B2
Using 0.24 g of (3-bromobenzyl)malononitrile, 3 ml of N,N-dimethylformamide, 0.10 g of sodium hydride (60% in oil), and 0.13 g of 1-bromo-2-fluoroethane, and according to the process described in the Production Example 1, there was obtained 0.11 g of 2-(3-bromobenzyl)-2-(2-fluoroethyl)malononitrile (the present compound (65)).

reactant | (3-bromobenzyl)malononitrile | 0.24 g | BrC=1C=C(CC(C#N)C#N)C=CC1 | C10H7BrN2
reactant | sodium hydride | 0.10 g | [H-].[Na+]
reactant | 1-bromo-2-fluoroethane | 0.13 g | BrCCF | C2H4BrF
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-(3-bromobenzyl)-2-(2-fluoroethyl)malononitrile | 0.11 g, Yield: 33% | BrC=1C=C(CC(C#N)(C#N)CCF)C=CC1 | C12H10BrFN2
